US07390818B2
A) Ethyl 4-hydrazinobenzoate
5.0 g of 4-hydrazinobenzoic acid are dissolved in 70 ml of ethanol and 3 ml of concentrated H2SO4. The mixture is heated at reflux for five hours, the ethanol is evaporated, the residue is then taken up in a saturated K2CO3 solution and then extraction is carried out with AcOEt. 5.9 g of the expected compound are obtained in the form of a powder.

reactant | 4-hydrazinobenzoic acid | 5.0 g | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | ethanol | 70 ml | C(C)O | C2H6O
solvent | H2SO4 | 3 ml | OS(=O)(=O)O | H2O4S
product | Ethyl 4-hydrazinobenzoate | 5.9 g | N(N)C1=CC=C(C(=O)OCC)C=C1 | C9H12N2O2
